US06521658B1
(3,4,5-trimethoxyphenyl) 3-amino-4-methoxybenzenesulfonate
A solution of 3,4,5-trimethoxyphenol (505.7 mg, 2.75 mmol) in dichloromethane (28 mL) was treated sequentially with triethylamine (1.2 mL), 4-methoxymetanilyl fluoride (572.5 mg, 2.75 mmol), and tert-butylammonium iodide (106 mg, 0.287 mmol), stirred overnight, and washed once with 1M Na2CO3. The organic layer was separated, dried (MgSO4), filtered, and concentrated. Chromatography of the concentrate on silica gel with 40% ethyl acetate/hexanes provided 356 mg of the desired compound.

reactant | 3,4,5-trimethoxyphenol | 2.75 mmol, 505.7 mg | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | triethylamine | 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxymetanilyl fluoride | 2.75 mmol, 572.5 mg | COC1=C(C=C(C=C1)S(=O)(=O)F)N | C7H8FNO3S
reactant | tert-butylammonium iodide | 0.287 mmol, 106 mg | [I-].C(C)(C)(C)[NH3+]
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
product | (3,4,5-trimethoxyphenyl) 3-amino-4-methoxybenzenesulfonate | 356 mg | NC=1C=C(C=CC1OC)S(=O)(=O)OC1=CC(=C(C(=C1)OC)OC)OC | C16H19NO7S
